US05089476
Preparation of 7-ethyl 1-methyl 6-amino-2-[(N-formylglycyl)amino]-3-heptenedioate
Using the procedure of preparation B of Example 1, diethyl (formylamino)-(2-methyl-2-propenyl)-propanedioate in Step 2 was replaced by methyl 2-[(N-formylglycyl)-amino]-2-(2-propenyl)ethanoate to obtain the expected product with an Rf=0.2 in a methylene chloride/methanol (9:1) mixture.

reactant | diethyl (formylamino)-(2-methyl-2-propenyl)-propanedioate | C(=O)NC(C(=O)OCC)(C(=O)OCC)CC(=C)C | C12H19NO5
reactant | methyl 2-[(N-formylglycyl)-amino]-2-(2-propenyl)ethanoate | C(=O)NCC(=O)NC(C(=O)OC)CC=C | C9H14N2O4
solvent | methylene chloride methanol | C(Cl)Cl.CO
product | 7-ethyl 1-methyl 6-amino-2-[(N-formylglycyl)amino]-3-heptenedioate | NC(CC=CC(C(=O)OC)NC(CNC=O)=O)C(=O)OCC | C13H21N3O6
